US07705042B2
f) 4-Cyano-1H-imidazole-2-carboxylic acid [4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4-methyl-piperidin-1-yl)-phenyl]-amide
A solution of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4-methyl-piperidin-1-yl)-phenyl]-amide (as prepared in the previous step, 19.0 mg, 0.0330 mmol) in 1 mL of 2:1 TFA/DCM was stirred at RT for 4 h. Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (10-20% EtOAc/DCM) gave 13.2 mg (90%) of the title compound as a white solid: 1H-NMR (CDCl3; 400 MHz): δ 12.00 (s, 1H), 10.29 (s, 1H), 8.33 (d, 1H, J=8.3 Hz), 7.76 (d, 1H, J=2.3 Hz), 7.12 (dd, 1H, J=8.3, 1.7 Hz), 7.06 (d, 1H, J=1.7 Hz), 3.14-3.22 (m, 4H), 3.01 (d, 2H, J=12.0 Hz), 2.68-2.83 (m, 3H), 2.38-2.53 (m, 2H), 2.23 (d, 2H, J=14.5 Hz), 1.50-1.85 (m, 5H), 1.09 (d, 3H, J=5.8 Hz). Mass spectrum (ESI, m/z): Calcd. for C22H27N5O3S, 442.2 (M+H), found 442.2.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4-methyl-piperidin-1-yl)-phenyl]-amide | O=S1(CCC(CC1)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)N1CCC(CC1)C)=O | C28H41N5O4SSi
solvent | TFA DCM | 1 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-Cyano-1H-imidazole-2-carboxylic acid [4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4-methyl-piperidin-1-yl)-phenyl]-amide | 13.2 mg, 90% | O=S1(CCC(CC1)C1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)N1CCC(CC1)C)=O | C22H27N5O3S
